US08258134B2
Hydrazine sulfate (305.7 g, 2.35 mol) was added to a solution of 3,4-dichloro-5-hydroxy-5H-furan-2-one (419 g, 2.48 mol) and sodium acetate (212 g, 2.58 mol) in water (600 mL). The mixture was stirred at reflux for 4 h. After filtration and evaporation, the residual solid was recrystallized from ethanol to afford 4,5-dichloropyridazin-3(2H)-one (216 g, 67%) as an off-white solid. LC-MS 165 [M+H+].

reactant | Hydrazine sulfate | 2.35 mol, 305.7 g | S(=O)(=O)(O)O.NN
reactant | 3,4-dichloro-5-hydroxy-5H-furan-2-one | 2.48 mol, 419 g | ClC=1C(OC(C1Cl)O)=O | C4H2Cl2O3
reactant | sodium acetate | 2.58 mol, 212 g | C(C)(=O)[O-].[Na+]
solvent | water | 600 mL | O | H2O
product | 4,5-dichloropyridazin-3(2H)-one | 216 g, 67% | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
